US07098240B2
3-[(Aminocarbonyl)amino]-5-(1-benzothien-2-yl)thiophene-2-carboxamide
The title compound was prepared from 3-[(aminocarbonyl)amino-5-bromothiophene-2-carboxamide and 1-benzothien-2-ylboronic acid in a similar manner to Example 11 (g).

reactant | (aminocarbonyl)amino-5-bromothiophene-2-carboxamide | NC(=O)NC1=C(SC(=C1)Br)C(=O)N | C6H6BrN3O2S
reactant | 1-benzothien-2-ylboronic acid | S1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO2S
product | 3-[(Aminocarbonyl)amino]-5-(1-benzothien-2-yl)thiophene-2-carboxamide | NC(=O)NC1=C(SC(=C1)C=1SC2=C(C1)C=CC=C2)C(=O)N | C14H11N3O2S2
